US08138377B2
(2) (1S,5S)-3-Benzenesulfonyl-1-(3,4-dichlorophenyl)-3-methylsulfanyl-bicyclo[3.1.0]hexane
1-((Methylthio)methylsulfonyl)benzene (2.95 g, 14.6 mmole) was dissolved in dry dimethylforamide (DMF, 40 mL). Sodium hydride (1.75 g, 36.5 mmol) was added portion wise under nitrogen atmosphere at 0° C. The mass was gradually heated to 40° C. and maintained for 30 min at 40° C. A solution of (1S)-1,2-bis(bromomethyl)-1-(3,4-Dichlorophenyl)cyclopropane (5.65 g, 14.65 mmol) in DMF (10 mL) was added dropwise for 30 minutes at 0° C. The temperature of the reaction mass was brought to room temperature slowly and maintained for 7 hours. The reaction was monitored by TLC (ethyl acetate/hexane (10:90)). The reaction mass was quenched with water. The aqueous layer was extracted with diethyl ether (2×250 mL). The combined organic layer was dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure to yield 8 g of crude oil that was purified by column chromatography (silica gel, ethyl acetate/hexane (4:96) to yield 2 g (33%) of product. 1H NMR δ(300 MHz,CDCl3): 1.73 (1H,m), 1.85 (2H,m), 2.04 (3H,s), 2.29 (2H,m), 2.54 (1H,m),2.88 (1H, dd, J=15 Hz), 7.12 (1H,d,J=3 Hz), 7.15 (1H,d,J=3 Hz), 7.25 (1H,m), 7.3 (1H,d,J=9 Hz), 7.55-7.57 (2H,m), 7.91 (2H,m).

reactant | 1-((Methylthio)methylsulfonyl)benzene | 14.6 mmole, 2.95 g | CSCS(=O)(=O)C1=CC=CC=C1 | C8H10O2S2
reactant | Sodium hydride | 36.5 mmol, 1.75 g | [H-].[Na+]
reactant | (1S)-1,2-bis(bromomethyl)-1-(3,4-Dichlorophenyl)cyclopropane | 14.65 mmol, 5.65 g | BrC[C@@]1(C(C1)CBr)C1=CC(=C(C=C1)Cl)Cl | C11H10Br2Cl2
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | dimethylforamide | 40 mL | CN(C=O)C | C3H7NO
solvent | DMF | 10 mL | CN(C=O)C | C3H7NO
product | (1S,5S)-3-Benzenesulfonyl-1-(3,4-dichlorophenyl)-3-methylsulfanyl-bicyclo[3.1.0]hexane | 2 g, 33% | C1(=CC=CC=C1)S(=O)(=O)C1(C[C@]2(C[C@H]2C1)C1=CC(=C(C=C1)Cl)Cl)SC | C19H18Cl2O2S2
